US09147848B2
To a solution of carbazole (2.1 g, 12.5 mmol), benzene (10 mL), tetrabutylammonium bromine (0.1 g, 0.7 mmol) and 1-bromodecane (3.0 mL, 15 mmol), was added 50% NaOH aqueous solution (15 mL). The solution mixture was heated to 80° C. and stirred for 2 h. The solvent was evaporated in vacuo and the residue was extracted with dichloromethane (3×30 mL). The organic layer was dried over anhydrous Na2SO4 and filtered. After removal of solvent, the product was purified by silica gel column chromatography using petroleum ether/dichloromethane as eluent affording 9-decylcarbazole as a colorless liquid (3.4 g, 90%). 1H NMR (400 MHz, CDCl3, δ) 8.10 (d, J=7.6 Hz, 2H), 7.48-7.38 (m, 4H), 7.24 (dd, J=14.4 Hz, J=1.2 Hz, 2H), 4.30 (t, J=7.2 Hz, 2H), 1.89-1.81 (m, 2H), 1.39-1.23 (m, 14H), 0.88 (t, J=7.0 Hz, 3H). 13C NMR (100 MHz, CDCl3, δ) 140.4, 125.5, 122.8, 120.3, 118.6, 108.6, 43.1, 31.8, 29.5, 29.48, 29.40, 29.3, 28.9, 27.3, 22.7, 14.1. MS (MALDI-TOF): m/z 307.2579 (M+).

reactant | carbazole | 12.5 mmol, 2.1 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | 1-bromodecane | 15 mmol, 3.0 mL | BrCCCCCCCCCC | C10H21Br
reactant | NaOH | 15 mL | [OH-].[Na+]
catalyst | tetrabutylammonium bromine | 0.7 mmol, 0.1 g | [Br+].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | benzene | 10 mL | C1=CC=CC=C1 | C6H6
product | 9-decylcarbazole | 3.4 g, 90% | C(CCCCCCCCC)N1C2=CC=CC=C2C=2C=CC=CC12 | C22H29N
